US08623889B2
Step 1: 1-chloro-2-(2-methoxyvinyl)benzene
To a stirred solution of (methoxymethyl)triphenylphosphonium chloride (10 g, 28 mmol) in tetrahydrofuran (46 mL) cooled at −15° C. was added potassium tert-butoxide (3.7 g, 31 mmol) as a solid in one portion. After 5 minutes, 2-chlorobenzaldehyde (2.0 g, 14 mmol) was added, and the reaction mixture was warmed to room temperature and stirred for two hours. The reaction was quenched with saturated aqueous ammonium chloride solution (5 mL), tetrahydrofuran evaporated in vacuo, and the resulting residue was diluted with diethyl ether (100 mL) and water (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 80 g, ISCO, 0-10% ethyl acetate in heptane) to afford the title compound as a colorless oil (2.4 g, 100%), which was used in the next step without further purification.

reactant | (methoxymethyl)triphenylphosphonium chloride | 28 mmol, 10 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 31 mmol, 3.7 g | CC(C)([O-])C.[K+]
reactant | 2-chlorobenzaldehyde | 14 mmol, 2.0 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | tetrahydrofuran | 46 mL | O1CCCC1 | C4H8O
product | 1-chloro-2-(2-methoxyvinyl)benzene | 2.4 g, 100% | ClC1=C(C=CC=C1)C=COC | C9H9ClO
